US08012967B2
(i) Methyl 6-{(E)-2-[4-(methylsulfanyl)phenyl]ethenyl}nicotinate
A mixture of 4-(methylsulfanyl)benzaldehyde (250 mg, 1.52 mmol), methyl 6-methylnicotinate (230 mg, 1.52 mmol), acetic anhydride (310 mg, 3.04 mmol) and a catalytic amount of zinc chloride was heated under reflux for 12 h. The reaction mixture was allowed to cool to room temperature before crushed ice was added followed by sodium hydroxide solution 10% (dropwise with stirring) until the mixture was basic (pH 8). Dichloromethane was added and the layers separated. The combined organic layers were collected, dried (MgSO4) and concentrated under reduced pressure to give the crude product as brown solid. The crude mixture was purified by column chromatography (ethyl acetate/n-hexane, 1:1, RF=0.80), followed by recrystallization from methanol to give the sub-title compound as pale yellow crystals (251 mg, 58%).

reactant | 4-(methylsulfanyl)benzaldehyde | 1.52 mmol, 250 mg | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | methyl 6-methylnicotinate | 1.52 mmol, 230 mg | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | acetic anhydride | 3.04 mmol, 310 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | Dichloromethane | ClCCl | CH2Cl2
product | Methyl 6-{(E)-2-[4-(methylsulfanyl)phenyl]ethenyl}nicotinate | 251 mg, 58% | CSC1=CC=C(C=C1)/C=C/C1=NC=C(C(=O)OC)C=C1 | C16H15NO2S
